US06605629B1
A mixture of 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methylphenoxy)propyl]oxazole (1.00 g), 2-ethylimidazole (960 mg), potassium carbonate (1.38 g) and N,N-dimethylformamide (10 ml) was stirred at 120-130° C. for 1 hour. The reaction mixture was poured into water (100 ml), and the solid precipitate was filtered, air-dried and recrystallized from acetone-isopropyl ether to give 4-(4-chlorophenyl)-2-(2-ethyl-1-imidazolyl)-5-[3-(2-methylphenoxy)propyl]oxazole as pale yellow prisms (438 mg, 38%). Melting point 91-92° C.

reactant | 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methylphenoxy)propyl]oxazole | 1.00 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCCOC1=C(C=CC=C1)C | C19H17Cl2NO2
reactant | 2-ethylimidazole | 960 mg | C(C)C=1NC=CN1 | C5H8N2
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 4-(4-chlorophenyl)-2-(2-ethyl-1-imidazolyl)-5-[3-(2-methylphenoxy)propyl]oxazole | 438 mg, 38% | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=CC=C1)C)N1C(=NC=C1)CC | C24H24ClN3O2
